US08357694B2
6-(2,4-dichlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using 4-(6-(2,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, 2-(4-(2-methoxyethyl)piperazin-1-yl)ethanamine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=208-212° C. 1H NMR (DMSO) 400 MHz δ 9.70 (s, 1H), 8.39-8.31 (m, 2H), 7.85-7.80 (m, 2H), 7.71-7.69 (m, 1H), 7.58-7.46 (m, 2H), 7.31-7.25 (m, 3H), 7.05 (d, J=7.6 Hz, 1H), 6.76 (d, J=8.4 Hz, 1H), 4.80-4.75 (m, 1H), 3.88-3.00 (m, 21H). LCMS 588 [M+H]. Calc. for C33H35Cl2N5O.3.1 Hydrochloric Acid.0.3 Water 0.2 Ethyl Acetate: C, 56.03; H, 5.61; N, 9.67. Found C, 56.04; H, 5.60; N, 9.66.

reactant | 4-(6-(2,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=C(C=C1)Cl)Cl)C=CC=C3 | C27H23Cl2N3O3S
reactant | 2-(4-(2-methoxyethyl)piperazin-1-yl)ethanamine | COCCN1CCN(CC1)CCN | C9H21N3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-(2,4-dichlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCN(CC2)CCOC | InChI=1S/C33H35Cl2N5O.ClH/c1-41-19-18-40-16-14-39(15-17-40)13-12-23-6-9-26(10-7-23)37-33-36-22-24-20-30(28-11-8-25(34)21-31(28)35)27-4-2-3-5-29(27)32(24)38-33;/h2-11,21-22,30H,12-20H2,1H3,(H,36,37,38);1H
